US07820815B2
a. 3-Cyano-2-(chloromethyl)-pyridine
165.5 g (0.98 mol) of 2-hydroxymethyl-3-pyridinecarboxamide are heated together with 270 ml of phosphorus oxychloride to 90-100° C. for 1 hour. The reaction mixture is cooled to room temperature and subsequently added dropwise to approx. 800 ml of water at 50-60° C. After the phosphorus oxychloride has been hydrolyzed, the mixture is neutralized with sodium hydroxide solution with cooling, in the course of which the product precipitates out. It is filtered off, washed with 300 ml of water and subsequently dried at 35-40° C.

reactant | 2-hydroxymethyl-3-pyridinecarboxamide | 0.98 mol, 165.5 g | OCC1=NC=CC=C1C(=O)N | C7H8N2O2
reactant | phosphorus oxychloride | 270 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | approx. 800 ml | O | H2O
product | 3-Cyano-2-(chloromethyl)-pyridine | C(#N)C=1C(=NC=CC1)CCl | C7H5ClN2
